US07550478B2
Step 1: Benzyl (1,4-dioxan-2-ylmethyl)methylcarbamate
1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride (4.83 g, 29 mmol) was dissolved in 100 mL dichloromethane. Benzyl chloridocarbonate (4.9 mL, 35 mmol) and triethylamine (10 mL, 72 mmol) were added. The solution was stirred at ambient temperature. After 12 hours, the solution was concentrated, then diluted with ethyl acetate, and washed with saturated sodium bicarbonate and water. The organic layer was separated, dried with magnesium sulfate, filtered, concentrated in vacuo, and purified by silica chromatography (0-100% ethyl acetate/hexanes gradient) to afford the title compound (racemic mixture).

reactant | 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride | 29 mmol, 4.83 g | Cl.O1C(COCC1)CNC
reactant | Benzyl chloridocarbonate | 35 mmol, 4.9 mL | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
reactant | triethylamine | 72 mmol, 10 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzyl (1,4-dioxan-2-ylmethyl)methylcarbamate | O1C(COCC1)CN(C(OCC1=CC=CC=C1)=O)C | C14H19NO4
